US05580904
N-[(2-hydroxy)ethyl]-2,4-dimethylthiazolium bromide
To the mixture of 2.4-dimethylthiazole (26.0 g) and dioxane (30 ml) was added 2-bromoethanol (40 g), and the resulting mixture was heated under reflux for 5 hours. To the mixture left standing at room temperature for about 0.5 hour was added acetone (150 ml) with stirring to give pale yellowish white solids. To the mixture was further added ether (150 ml), and the resulting powdery crystals were collected by filtration, washed with acetone and dried under reduced pressure.

reactant | 2.4-dimethylthiazole | 26.0 g | CC=1SC=C(N1)C | C5H7NS
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
reactant | 2-bromoethanol | 40 g | BrCCO | C2H5BrO
reactant | acetone | 150 ml | CC(=O)C | C3H6O
solvent | ether | 150 ml | CCOCC | C4H10O
product | N-[(2-hydroxy)ethyl]-2,4-dimethylthiazolium bromide | [Br-].OCC[N+]1=C(SC=C1C)C | InChI=1S/C7H12NOS.BrH/c1-6-5-10-7(2)8(6)3-4-9;/h5,9H,3-4H2,1-2H3;1H/q+1;/p-1
